US05162322
b 5-[4-[4-(2-Hydroxyphenyl)-1-piperazinyl]butyl]-3-methyl-2-oxazolidinone.
Following the procedure of Example 5, a mixture of 5-(4-chlorobutyl)-3-methyl-2-oxazolidinone (5.39 g, 0.0282 mol), 1-(2-hydroxyphenyl)-piperazine dihydrobromide (9.6 g, 0.0282 mol), sodium bicarbonate (9.5 g, 0.113 mol) and potassium iodide (1.0 g) in n-butanol (100 mL) gave an oil which was triturated in light pet ether several times, crystallized from ethyl acetate/isopropyl ether, and dried under high vacuum at 50° C. to give 3.22 g (34% yield), mp 106°-110°.

reactant | 5-(4-chlorobutyl)-3-methyl-2-oxazolidinone | 0.0282 mol, 5.39 g | ClCCCCC1CN(C(O1)=O)C | C8H14ClNO2
reactant | 1-(2-hydroxyphenyl)-piperazine dihydrobromide | 0.0282 mol, 9.6 g | Br.Br.OC1=C(C=CC=C1)N1CCNCC1
reactant | sodium bicarbonate | 0.113 mol, 9.5 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 5-[4-[4-(2-Hydroxyphenyl)-1-piperazinyl]butyl]-3-methyl-2-oxazolidinone | 34% yield | OC1=C(C=CC=C1)N1CCN(CC1)CCCCC1CN(C(O1)=O)C | C18H27N3O3
